US04282246
5-Phenylthiothiophene-2-carboxylate and an equivalent quantity of magnesium oleate are each dissolved in ethanol and the solutions mixed. Magnesium 5-phenylthiothiophene-2-carboxylate is isolated by concentration and/or addition of heptane.

reactant | 5-Phenylthiothiophene-2-carboxylate | C1(=CC=CC=C1)C1=CC=C(S1)C(=S)[O-]
reactant | magnesium oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-]
reactant | heptane | CCCCCCC | C7H16
solvent | ethanol | C(C)O | C2H6O
product | Magnesium 5-phenylthiothiophene-2-carboxylate | C1(=CC=CC=C1)C1=CC=C(S1)C(=S)[O-].[Mg+2].C1(=CC=CC=C1)C1=CC=C(S1)C(=S)[O-] | InChI=1S/2C11H8OS2.Mg/c2*12-11(13)10-7-6-9(14-10)8-4-2-1-3-5-8;/h2*1-7H,(H,12,13);/q;;+2/p-2
